* Plot 8: Output Impedance — inject AC current at output
.title PVDD Output Impedance

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

Vbvdd bvdd 0 dc 7
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 2.2
Ven_ret en_ret 0 0

* DC load 10mA
Rload pvdd 0 500
* AC current injection
Iac pvdd 0 ac 1

XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.nodeset v(pvdd)=5.0

.ac dec 50 1 10meg

.control
run
set filetype = ascii
* Zout = V(pvdd) / I_ac = V(pvdd) / 1A (ac magnitude)
let zout_mag = abs(v(pvdd))
let zout_db = 20 * log10(zout_mag + 1e-30)
wrdata plt8_zout.dat zout_mag
echo "Zout done"
quit
.endc
.end
